US05262427
0.45 g (5 mmole) nitropropane and 5 ml 1N (5 mmole) sodiummethoxide was dissolved in dry dimethylacetamide (25 ml). To this solution 0.39 g (5 mmole) acetylchloride and 0.51 g (5 mmole) 2-ethynylpyridine was added. The reaction mixture was stirred overnight at room temperature. Water (150 ml) was added, and the solution extracted with 3×30 ml ethylacetate. The organic phase was dried over magnesiumsulphate and concentrated in vacuo giving 3-(3-ethyl-5-isoxazolyl)pyridine in a 500 mg yield. This compound was quartarnized with methyliodide and reduced with sodiumborohydride as described above giving the title compound in a 170 mg yield. M.p. 169°-170° C.

reactant | nitropropane | 5 mmole, 0.45 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | sodiummethoxide | 5 mmole, 1N, 5 ml | C[O-].[Na+]
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
reactant | 2-ethynylpyridine | 5 mmole, 0.51 g | C(#C)C1=NC=CC=C1 | C7H5N
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
solvent | Water | 150 ml | O | H2O
product | 3-(3-ethyl-5-isoxazolyl)pyridine | C(C)C1=NOC(=C1)C=1C=NC=CC1 | C10H10N2O
